US08633200B2
2-(tert-Butoxy)-2-(3-chloro-7-(8-fluoro-5-methylchroman-6-yl)-2,5-dimethylpyrazolo[1,5-a]pyrimidin-6-yl)acetic acid
To a solution of methyl 2-tert-butoxy-2-(3-chloro-7-(8-fluoro-5-methylchroman-6-yl)-2,5-dimethylpyrazolo[1,5-a]pyrimidin-6-yl)acetate, (5 mg, 10 umol) in dioxane (0.5 mL) was added 1.0 N LiOH aqueous solution (0.5 mL, 0.5 mmol). The reaction mixture was stirred at 50° C. for 2 h. The reaction mixture was filtered and the filtrate was purified by preparative HPLC to afford (3 mg, 60%) of the title compound. Preparative HPLC condition: Phenomenex Luna C18 30×100 mm S10, 50 to 100% B over 22 min gradient, 6 min hold time, A=10% methanol 90% water 0.1% TFA, B=90% methanol 10% water 0.1% TFA. Flow rate: 40 mL/min. 1H-NMR (400 MHz, DMSO-d6) δ ppm 1.03 (9H, br. s.), 1.8 (2H, s), 2.28 (2H, br. s.), 2.52 (3H, s), 2.74 (3H, br. s.), 2.96 (3H, s), 4.29 (2H, br. s.), 4.7 (1H, s), 6.98 (1H, s), 7.96 (1H, s).

reactant | methyl 2-tert-butoxy-2-(3-chloro-7-(8-fluoro-5-methylchroman-6-yl)-2,5-dimethylpyrazolo[1,5-a]pyrimidin-6-yl)acetate | 10 umol, 5 mg | C(C)(C)(C)OC(C(=O)OC)C=1C(=NC=2N(C1C=1C(=C3CCCOC3=C(C1)F)C)N=C(C2Cl)C)C | C25H29ClFN3O4
reactant | LiOH | 0.5 mmol, 1.0 N, 0.5 mL | [Li+].[OH-]
solvent | dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
product | 2-(tert-Butoxy)-2-(3-chloro-7-(8-fluoro-5-methylchroman-6-yl)-2,5-dimethylpyrazolo[1,5-a]pyrimidin-6-yl)acetic acid | 3 mg, 60% | C(C)(C)(C)OC(C(=O)O)C=1C(=NC=2N(C1C=1C(=C3CCCOC3=C(C1)F)C)N=C(C2Cl)C)C | C24H27ClFN3O4
